US08791161B2
N-{2-[(3-aminobenzyl)thio]-5-chlorophenyl}-4-chlorobenzenesulfonamide
Following General Procedure A, B, and K, the title compound was prepared from 2-amino-4-chloro-benzenethiol, 1-bromomethyl-3-nitro-benzene, and 4-chloro-benzenesulfonyl chloride.

reactant | 2-amino-4-chloro-benzenethiol | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
reactant | 1-bromomethyl-3-nitro-benzene | BrCC1=CC(=CC=C1)[N+](=O)[O-] | C7H6BrNO2
reactant | 4-chloro-benzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | N-{2-[(3-aminobenzyl)thio]-5-chlorophenyl}-4-chlorobenzenesulfonamide | NC=1C=C(CSC2=C(C=C(C=C2)Cl)NS(=O)(=O)C2=CC=C(C=C2)Cl)C=CC1 | C19H16Cl2N2O2S2
